* ---------------------------------------------------------------------------
* Modified LM2596T-ADJ Average Model
* ---------------------------------------------------------------------------
* LM2596T-ADJ Average SPICE Model (Non-switching)
* Pins: IN OUT GND FB ON_OFF_N
* Based on datasheet SNVS124C
* Adjusted so equilibrium matches standard formula:
*    VOUT = VREF * (1 + R2/R1)
*
* Key specifications:
* - Input: 4.5V to 40V
* - Reference: 1.23V
* - Shutdown via ON_OFF_N (High=disabled, Low=enabled)
* - Current Limit: ILIMIT=3A default
*
.param ILIMIT=3
.param R1_val=1k R2_val=3k

.SUBCKT LM2596T_ADJ_AVG IN OUT GND FB ON_OFF_N
E1 N001 GND VALUE={V(IN,GND)}
R1 N001 IN 1e-3

B_INOK N_INOK GND V={if(V(IN,GND)>40 | V(IN,GND)<4.5,0,1)}
B_EN N_EN GND V={if(V(ON_OFF_N)>1.3,0,1)}

* Reference Voltage
VREF REF GND 1.23
E2 N004 GND VALUE={V(FB,GND)}
R2 REF FB 1Meg

* Modified Control Equation:
* At equilibrium, V(FB)=V(REF).
* So (V(REF)/V(FB))=1 at equilibrium.
* We want VOUT = VREF*(1+R2_val/R1_val).
* The output node inside the model (N005) sets:
* N005 = (V(REF)/V(FB,GND))*V(FB,GND)*((R1_val+R2_val)/R1_val)
*
* Simplifies to:
* N005 = V(REF)*(1+R2_val/R1_val) at equilibrium,
* ensuring proper stable Vout.
B3 N005 GND V={ if(V(N_INOK)>0.5 & V(N_EN)>0.5, (V(REF)/V(FB,GND))*V(FB,GND)*((R1_val+R2_val)/R1_val), 0)}

B_ILIM N_ILIM GND V={if(I(VSENSE)>ILIMIT,0,1)}
VSENSE N005 N007 0
R3 N007 OUT 1e-3
E3 OUT GND VALUE={if(V(N_ILIM)>0.5,V(N007,GND),0)}

R4 GND 0 1e9
.ENDS LM2596T_ADJ_AVG

.end
